US06441005B1
5-(S)-Acetamidomethyl-3-[4′-(hydrazino)carbonyl-3′-fluorophenyl]oxazolidine-2-one
Hydrazine (0.041 ml, 1.30 mmol) was added dropwise with stirring to a solution of 5-(S)-acetamidomethyl-3-[4′-(pentafluorophenoxy)carbonyl-3′-fluorophenyl]oxazolidine-2-one (0.500 g, 1.08 mmol) in tetrahydrofuran (3 ml). The mixture was stirred at r.t. for 2 h, and the heavy white precipitate filtered, washed with ether, and dried under vacuum. Yield 0.295 g (88%). MS (m/z): [M+H]+=311.

reactant | Hydrazine | 1.30 mmol, 0.041 ml | NN | H4N2
reactant | 5-(S)-acetamidomethyl-3-[4′-(pentafluorophenoxy)carbonyl-3′-fluorophenyl]oxazolidine-2-one | 1.08 mmol, 0.500 g | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)F | C19H12F6N2O5
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 5-(S)-Acetamidomethyl-3-[4′-(hydrazino)carbonyl-3′-fluorophenyl]oxazolidine-2-one | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(=O)NN)F | C13H15FN4O4
